US05010076
10 g of 2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine were dissolved in 100 ml of tetrahydrofuran under a nitrogen atmosphere. 1.4 g of sodium hydride in the form of an 80% oily suspension were added in portions to the solution under the nitrogen atmosphere, and the reaction mixture was heated to reflux for 30 minutes. 9.2 g (=5.5 ml) of iodopentane were slowly added dropwise, the mixture was heated to reflux for a further 1.5 hours and then another 0.3 g of sodium hydride in the form of an oily suspension was added and, after a further 10 minutes, another 5.5 ml of iodopentane were added dropwise, and the mixture was heated to reflux for a further hour. To work up the reaction mixture, ice-water was added to the reaction mixture and it was diluted with dichloromethane, the aqueous phase was separated, and the organic phase was washed to neutrality with water, dried over sodium sulfate, filtered and evaporated. 13.5 g of crude product were obtained and were purified by flash chromatography on about 300 g of silica gel using cyclohexane/ethyl acetate 1:1 as the eluent. The purified product was crystallized from cyclohexane and dried. 6.2 g of pure 2-oxo-1-n-pentyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine having a melting point of 93-95° C. were obtained.

reactant | 2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | 10 g | O=C1NC2=C(C(=NC1)C1=CC=CC=C1)C=CC=C2 | C15H12N2O
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | iodopentane | 5.5 ml, 9.2 g | ICCCCC | C5H11I
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | iodopentane | 5.5 ml | ICCCCC | C5H11I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-oxo-1-n-pentyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | 6.2 g | O=C1N(C2=C(C(=NC1)C1=CC=CC=C1)C=CC=C2)CCCCC | C20H22N2O
